US07816389B2
The required (5-Fluoro-2-mercapto-phenyl)-methanol is prepared from 5-Fluoro-2-mercapto-benzoic acid following the procedure for the preparation of (3-Mercapto-phenyl)-methanol described in Chemistry Express, Vol 7, No. 11, pp. 865-868).

reactant | 5-Fluoro-2-mercapto-benzoic acid | FC=1C=CC(=C(C(=O)O)C1)S | C7H5FO2S
reactant | (3-Mercapto-phenyl)-methanol | SC=1C=C(C=CC1)CO | C7H8OS
product | (5-Fluoro-2-mercapto-phenyl)-methanol | FC=1C=CC(=C(C1)CO)S | C7H7FOS
